### PR TITLE
[Merged by Bors] - feat: the `n`th symmetric power is equivalent to maps of total mass `n`.

### PR DESCRIPTION
**Pull request by ocfnash**
---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Data/Finsupp/Multiset.lean [hunk 1]
```diff
@@ -251,3 +256,46 @@ end Finsupp
...
+    (equivNatSum α n s : α →₀ ℕ) a = (s : Multiset α).count a :=
+  rfl
+
+/-- The `n`th symmetric power of a finite type `α` is naturally equivalent to the subtype of maps
+`α → ℕ` with total mass `n`.
+
+See also `Sym.equivNatSum` when `α` is not necessarily finite. -/
+noncomputable def equivNatSumOfFintype [Fintype α] :
+    Sym α n ≃ {P : α → ℕ // ∑ i, P i = n} :=
+  (equivNatSum α n).trans <| (Finsupp.equivFunOnFinite.image _).trans <| Equiv.Set.ofEq <| by
```
Comment (eric-wieser) [inline Mathlib/Data/Finsupp/Multiset.lean:289]: If you pass this through `DFinsupp.equivFunOnFintype` and `Finsupp.toDFinsupp`, then it would be computable, which is nice for `#eval`

File: Mathlib/Data/Finsupp/Multiset.lean [hunk 2]
```diff
@@ -251,3 +256,46 @@ end Finsupp
...
+variable (α)
+variable [DecidableEq α] (n : ℕ)
+
+/-- The `n`th symmetric power of a type `α` is naturally equivalent to the subtype of
+finitely-supported maps `α →₀ ℕ` with total mass `n`.
+
+See also `Sym.equivNatSumOfFintype` when `α` is finite. -/
+def equivNatSum :
+    Sym α n ≃ {P : α →₀ ℕ // P.sum (fun _ ↦ id) = n} :=
+  (Multiset.toFinsupp.toEquiv.image _).trans <| Equiv.Set.ofEq <| by
```
Comment (eric-wieser) [inline Mathlib/Data/Finsupp/Multiset.lean:271]: Is `Equiv.subtypeEquiv` any more direct here?

Comment (eric-wieser) [reply Mathlib/Data/Finsupp/Multiset.lean:271]: Yes, `(Multiset.toFinsupp.toEquiv).subtypeEquiv fun a => by simp`!

Comment (ocfnash) [reply Mathlib/Data/Finsupp/Multiset.lean]: Ooooh, nice. Thanks!

File: Mathlib/Data/Finsupp/Multiset.lean (hunk 1 above)
Comment (ocfnash) [reply Mathlib/Data/Finsupp/Multiset.lean]: If it could be rendered computable for free I would do it, but I think even the low price of having to depend on `DFinsupp.equivFunOnFintype` (incidentally not imported in this file) makes it not worth it for me.

Comment (eric-wieser) [reply Mathlib/Data/Finsupp/Multiset.lean]: Perhaps the better resolution here is to have a `Multiset.countEquiv` or similar that is the `Fintype` analog to `Multiset.toFinsupp`, with a nice defeq for the summation. I'll let you decide if that sounds out of scope

bors d+

File: Mathlib/Data/Finsupp/Multiset.lean [hunk 3]
```diff
@@ -251,3 +256,35 @@ end Finsupp
...
+/-- The `n`th symmetric power of a finite type `α` is naturally equivalent to the subtype of maps
+`α → ℕ` with total mass `n`.
+
+See also `Sym.equivNatSum` when `α` is not necessarily finite. -/
+noncomputable def equivNatSumOfFintype [Fintype α] :
+    Sym α n ≃ {P : α → ℕ // ∑ i, P i = n} :=
+  (equivNatSum α n).trans <| Finsupp.equivFunOnFinite.subtypeEquiv <| by simp [Finsupp.sum_fintype]
+
+@[simp] lemma coe_equivNatSumOfFintype_apply_apply [Fintype α] (s : Sym α n) (a : α) :
+    (equivNatSumOfFintype α n s : α → ℕ) a = (s : Multiset α).count a :=
```
Comment (eric-wieser) [inline Mathlib/Data/Finsupp/Multiset.lean:287]: Can you add a lemma for `symm` too?

File: Mathlib/Data/Finsupp/Multiset.lean (hunk 1 above)
Comment (ocfnash) [reply Mathlib/Data/Finsupp/Multiset.lean]: I guess we should probably have this somewhere:
```lean
def Multiset.countAddEquiv (α : Type*) [Fintype α] [DecidableEq α] :
    Multiset α ≃+ (α → ℕ) where
  toFun s := s.count
  invFun P := ∑ a, P a • {a}
  map_add' s t := by ext; simp
  left_inv s := by
    ext a
    change count a (sum _) = _
    rw [count_sum]
    simp [count_singleton]
  right_inv P := by
    ext a
    change count a (sum _) = _
    rw [count_sum]
    simp [count_singleton]
```
I'll try to come back to this.

**Comment by ocfnash** [comment]
bors merge
